US06333336B1
2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[3-(4H-1,2, 4-triazol-4-yl)phenyl]pyrazolo [4,3-c]pyridin-3-one
A mixture of 7-(3-aminophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one (0.100 g, 0.285 mmol), N,N-dimethylformamide azine (Bartlett, R. K.; Humphrey, I. R. J. Chemn. Soc. C 1967, 1664) (41.3 mg, 0.290 mmol), and p-toluenesulfonic acid (10 mg, 0.053 mmol) in toluene (4 ml) was heated at reflux under nitrogen for 7 days, adding more p-toluenesulfonic acid (10 mg, 0.053 mmol) and some DMSO after 1 day. The solvents were removed in vacuo and the residue was purified by flash chromatography (silica gel, 5-15% MeOH/CH2Cl2), then trituration in hot MeOH-CH2Cl2, to leave 0.0436 g (38%) of the title compound as a yellow solid; mp >350° C.; 1H NMR (360 MHz, DMSO-d6) δ2.29 (3H, s), 7.41 (2H, d, J 9.1 Hz), 7.59 (1H, d, J 7.7 Hz), 7.70 (1H, t, J 7.7 Hz), 7.79 (1H, dd), 7.87 (1H, fine t), 8.11 (2H, d, J 8.9 Hz), 8.62 (1H, s), 9.18 (2H, s), 12.52 (1H, br s); MS (ES+) m/z 403/405 1MH]+. Anal. found: C, 61.14; H, 3.79; N, 20.29. C21H15ClN6O.0.5H2O requires: C, 61.24; H, 3.92; N, 20.41%.

reactant | 7-(3-aminophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one | 0.285 mmol, 0.100 g | NC=1C=C(C=CC1)C=1C=2C(=CNC1C)C(N(N2)C2=CC=C(C=C2)Cl)=O | C19H15ClN4O
reactant | N,N-dimethylformamide azine | 0.290 mmol, 41.3 mg | CN(/C=N/N=C/N(C)C)C | C6H14N4
reactant | p-toluenesulfonic acid | 0.053 mmol, 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluenesulfonic acid | 0.053 mmol, 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | DMSO | CS(=O)C | C2H6OS
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[3-(4H-1,2, 4-triazol-4-yl)phenyl]pyrazolo [4,3-c]pyridin-3-one | 0.0436 g, 38% | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC(=CC=C2)N2C=NN=C2)C)C1=O | C21H15ClN6O
